US07776857B2
To a mixture of 3,4-dihydro-2H-benzo[b][1,4]oxazine (0.500 g, 3.70 mmol) and potassium carbonate (2.56 g, 18.5 mmol) in acetone (25 mL) was added 1-(bromomethyl)-4-nitrobenzene (0.959 g, 4.44 mmol). The mixture was heated to reflux and stirred overnight. After 16 hrs the mixture was concentrated in vacuo, diluted with EtOAc, and washed with water and brine. The organic fraction was dried over Na2SO4, concentrated in vacuo, and the crude residue was purified by silica gel chromatography using 100% Hexanes to 30% Hexanes:EtOAc to afford 4-(4-nitrobenzyl)-3,4-dihydro-2H-benzo[b][1,4]oxazine as an orange oil. MS found: M+H+=271.1.

reactant | 3,4-dihydro-2H-benzo[b][1,4]oxazine | 3.70 mmol, 0.500 g | O1C2=C(NCC1)C=CC=C2 | C8H9NO
reactant | potassium carbonate | 18.5 mmol, 2.56 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-(bromomethyl)-4-nitrobenzene | 4.44 mmol, 0.959 g | BrCC1=CC=C(C=C1)[N+](=O)[O-] | C7H6BrNO2
solvent | acetone | 25 mL | CC(=O)C | C3H6O
product | 4-(4-nitrobenzyl)-3,4-dihydro-2H-benzo[b][1,4]oxazine | [N+](=O)([O-])C1=CC=C(CN2C3=C(OCC2)C=CC=C3)C=C1 | C15H14N2O3
